* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP1\Ejericio 1\TP1_EJ1_Notch_Altium\Monte Carlo.asc
R1 N002 N001 {mc(3.3k,tol)}
R2 Vo N002 {mc(3.3k,tol)}
R3 N003 0 {mc(1.5k,tol)}
C3 N002 0 {mc(39n,tol)}
C1 N003 N001 {mc(18n,tol)}
C2 Vo N003 {mc(18n,tol)}
Vi N001 0 AC 1 0
;.ac dec 100 10 1meg
.param tol=0.05
.step param run 1 1000 1
.tran 1ms
.backanno
.end
